US08124600B2
To a solution of methyl 1H-indole-4-carboxylate (3.0 g, 17.1 mmol) in DMSO (25 mL) and 1,4-dioxane (25 mL) in a sealed tube were added potassium phosphate (7.3 g, 34.3 mmol), dimethylethylenediamine (1.0 mL, 9.1 mmol), L-proline (1.1 g, 9.1 mmol), 1-bromo-4-fluorobenzene (1.3 mL, 11.42 mmol), and copper iodide (1.1 g, 5.7 mmol). The mixture was purged with argon gas; the tube was sealed and heated at 110° C. overnight. The reaction mixture was cooled down to rt, washed with water (100 mL) and the aqueous mixture was extracted with dichloromethane (3×150 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. Purification of the resulting residue by column chromatography (0% to 50% dichloromethane in hexanes) afforded methyl 1-(4-fluorophenyl)-1H-indole-4-carboxylate (2.1 g, 68%) as a white solid: 1H NMR (300 MHz, DMSO) δ 7.87-7.82 (m, 2H), 7.75 (d, J=8.4 Hz, 1H), 7.68-7.63 (m, 2H), 7.49-7.42 (m, 2H), 7.32 (t, J=7.8 Hz, 1H), 7.20 (dd, J=3.0, 0.9 Hz, 1H), 3.93 (s, 3H); MS (ESI+) m/z 270 [M+H]+.

reactant | methyl 1H-indole-4-carboxylate | 17.1 mmol, 3.0 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | potassium phosphate | 34.3 mmol, 7.3 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylethylenediamine | 9.1 mmol, 1.0 mL | CNCCNC | C4H12N2
reactant | L-proline | 9.1 mmol, 1.1 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1-bromo-4-fluorobenzene | 11.42 mmol, 1.3 mL | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | copper iodide | 5.7 mmol, 1.1 g | [Cu](I)I
product | methyl 1-(4-fluorophenyl)-1H-indole-4-carboxylate | 2.1 g, 68% | FC1=CC=C(C=C1)N1C=CC=2C(=CC=CC12)C(=O)OC | C16H12FNO2
